US08247436B2
5-Amino-6′-methyl-3-trifluoromethyl-[2,3′]bipyridinyl-6-carboxylic acid (3,3,3-trifluoro-2-hydroxy-2-trifluoromethyl-propyl)-amide
This compound was prepared from 3-Amino-6-bromo-5-trifluoromethyl-pyridine-2-carboxylic acid (3,3,3-trifluoro-2-hydroxy-2-trifluoromethyl-propyl)-amide (Ex. 1.28) and 2-methylpyridine-5-boronic acid analogously to Example 8. LC-MS Rt 1.28 min; 477[M+H]+; (Method 2minLC_v002); 1H NMR (400 MHz, MeOD) δ 8.50 (1H, s), 7.85 (1H, dd), 7.69 (1H, s), 7.40 (1H, d), 4.00 (2H, s), 2.62 (3H, s).

reactant | 3-Amino-6-bromo-5-trifluoromethyl-pyridine-2-carboxylic acid (3,3,3-trifluoro-2-hydroxy-2-trifluoromethyl-propyl)-amide | FC(C(CNC(=O)C1=NC(=C(C=C1N)C(F)(F)F)Br)(C(F)(F)F)O)(F)F | C11H7BrF9N3O2
reactant | 2-methylpyridine-5-boronic acid | CC1=NC=C(C=C1)B(O)O | C6H8BNO2
product | 5-Amino-6′-methyl-3-trifluoromethyl-[2,3′]bipyridinyl-6-carboxylic acid (3,3,3-trifluoro-2-hydroxy-2-trifluoromethyl-propyl)-amide | FC(C(CNC(=O)C1=C(C=C(C(=N1)C=1C=NC(=CC1)C)C(F)(F)F)N)(C(F)(F)F)O)(F)F | C17H13F9N4O2
